US06271225B1
In the same manner as in Starting Material Synthesis Example 51 and using 2-amino-7-methylbenzo[b]thiophene-3-carbonitrile and 2-fluoronitrobenzene, 7-methyl-2-(2-nitroanilino)benzo[b]thiophene-3-carbonitrile is obtained.

reactant | 2-amino-7-methylbenzo[b]thiophene-3-carbonitrile | NC1=C(C2=C(S1)C(=CC=C2)C)C#N | C10H8N2S
reactant | 2-fluoronitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
product | 7-methyl-2-(2-nitroanilino)benzo[b]thiophene-3-carbonitrile | CC1=CC=CC2=C1SC(=C2C#N)NC2=C(C=CC=C2)[N+](=O)[O-] | C16H11N3O2S
